US05929097
N-Ethyl-N-pyridin-4-ylmethyl-acrylamide
To a 0° C. solution of 0.835 ml (6.0 mmol) of 4-(ethylaminomethyl) pyridine and 1.05 ml (7.5 mmol) of triethylamine in 10 ml dichloomethane, was dropwise added 0.406 ml (5.0 mmol) of acryloyl chloride. The reaction mixture was warmed to room temperature and stilred for 18 hr. The resulting nmxture was washed with water and brne, dried over MgSO4, filtered and concentrated in vacuo. The residue was chromatographed on silica gel with 3% MeOH/CH2Cl2 as the eluant to provide 651 mg (68%) of the desired product as a yellow gum. Electrospray Mass Spec 191(M+H).

reactant | 4-(ethylaminomethyl) pyridine | 6.0 mmol, 0.835 ml | C(C)NCC1=CC=NC=C1 | C8H12N2
reactant | triethylamine | 7.5 mmol, 1.05 ml | C(C)N(CC)CC | C6H15N
reactant | acryloyl chloride | 5.0 mmol, 0.406 ml | C(C=C)(=O)Cl | C3H3ClO
product | N-Ethyl-N-pyridin-4-ylmethyl-acrylamide | 651 mg, 68% | C(C)N(C(C=C)=O)CC1=CC=NC=C1 | C11H14N2O
